US08242145B2
Step 2: [3-(2-Hydroxymethyl-4-methyl-phenoxy)-phenyl]-acetic acid ethyl ester
To [3-(2-formyl-4-methyl-phenoxy)-phenyl]-acetic acid ethyl ester (0.20 g, 0.67 mmol) in MeOH (20 mL) was added sodium borohydride (0.03 g, 0.8 mmol), and the reaction was stirred for 10 minutes at room temperature. Once no starting material was seen by analytical tlc, the mixture was worked-up to give the desired product (0.20 g).

reactant | [3-(2-formyl-4-methyl-phenoxy)-phenyl]-acetic acid ethyl ester | 0.67 mmol, 0.20 g | C(C)OC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)C)C=O)=O | C18H18O4
reactant | sodium borohydride | 0.8 mmol, 0.03 g | [BH4-].[Na+]
solvent | MeOH | 20 mL | CO | CH4O
product | [3-(2-Hydroxymethyl-4-methyl-phenoxy)-phenyl]-acetic acid ethyl ester | 0.20 g | C(C)OC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)C)CO)=O | C18H20O4
